US06166218
5-n-Butylthio-2-(2-hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole
5-Chloro-2-(2-hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole (21.2 g, 0.06 mol), n-butyl mercaptan (7.2 g, 0.08 mol), potassium hydroxide (6.7.1 g, 0.12 mol) and N-methylpyrrolidone (50 g, 0.5 mol) are charged to a reactor and heated to 150° C. The reaction mass is held at 150° C. for 4.5 hours at which time it then cooled to ambient temperature. A mixture of 15 g of concentrated hydrochloric acid aand 70 g of ice are then added to the reactor. The solids are filtered off and washed with water. Thirty gram of crude, wet, yellow crystals are obtained as the title compound. This product can be used "as is" in procedure of Example 33.

reactant | 5-Chloro-2-(2-hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole | 0.06 mol, 21.2 g | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)O)C=C1 | C20H24ClN3O
reactant | n-butyl mercaptan | 0.08 mol, 7.2 g | C(CCC)S | C4H10S
reactant | potassium hydroxide | 0.12 mol | [OH-].[K+]
reactant | N-methylpyrrolidone | 0.5 mol, 50 g | CN1C(CCC1)=O | C5H9NO
reactant | hydrochloric acid | 15 g | Cl | ClH
product | 5-n-Butylthio-2-(2-hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole | C(CCC)SC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)O)C=C1 | C24H33N3OS
